US08536210B2
Step 1: 2-[5-(Dimethylamino)-2-methyl-3-oxo-2,3-dihydropyridazin-4-yl]benzaldehyde (Method E)
4-Chloro-5-(dimethylamino)-2-methylpyridazin-3(2H)-one (50.00 mmol) was dissolved in dimethoxyethane (155 ml), and Pd(PPh3)4 (1.60 g, 1.38 mmol) was added under argon. After stirring at room temperature for 10 min, 2-formylbenzeneboronic acid (10.50 g, 70.00 mmol) and 2M Na2CO3 solution (49.5 ml) were added. Subsequently, the reaction mixture was refluxed (oil bath temperature: 110° C.) for 15 h. The reaction was followed by TLC (eluent: chloroform:acetone (9:1)). Upon cooling the reaction mixture was poured onto ice (375 g), filtered over Celite and washed with chloroform (130 ml). The two layers were separated and the aqueous phase was extracted with chloroform (3×380 ml). The combined organic layers were washed with water (1×100 ml), dried over MgSO4, filtered and purified by flash column chromatography with a mixture of diisopropyl ether and acetone (8:1) as the eluent and crystallized from a mixture of ethyl acetate and hexane (2.3:1).

reactant | 4-Chloro-5-(dimethylamino)-2-methylpyridazin-3(2H)-one | 50.00 mmol | ClC=1C(N(N=CC1N(C)C)C)=O | C7H10ClN3O
reactant | 2-formylbenzeneboronic acid | 70.00 mmol, 10.50 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 2M, 49.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
solvent | dimethoxyethane | 155 ml | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 1.38 mmol, 1.60 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[5-(Dimethylamino)-2-methyl-3-oxo-2,3-dihydropyridazin-4-yl]benzaldehyde | CN(C1=C(C(N(N=C1)C)=O)C1=C(C=O)C=CC=C1)C | C14H15N3O2
